US05929291
13.0 g (60 mmol) of 2-[2-(2,2,3-trimethylcyclopent-3-enyl)ethylidene]cyclopentanone was cyclopropanated with 16.2 g (74 mmol) of trimethylsulfoxonium iodide and 3.6 g (75 mmol) of 50% oil suspension of sodium hydride according to Example 11a to give 4.9 g (35% yield) of 1-(2,2,3-trimethylcyclopent-3-enylmethyl)spiro[2.4]heptan-4-one.

reactant | 2-[2-(2,2,3-trimethylcyclopent-3-enyl)ethylidene]cyclopentanone | 60 mmol, 13.0 g | CC1(C(CC=C1C)CC=C1C(CCC1)=O)C | C15H22O
reactant | trimethylsulfoxonium iodide | 74 mmol, 16.2 g | [I-].C[S+](=O)(C)C
reactant | sodium hydride | [H-].[Na+]
product | 1-(2,2,3-trimethylcyclopent-3-enylmethyl)spiro[2.4]heptan-4-one | 4.9 g, 35% yield | CC1(C(CC=C1C)CC1CC12C(CCC2)=O)C | C16H24O
